US05212187
N-[4-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N'-cyano-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine
Preparation is effected analogously to Example 1, using 0.99 g (3 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,4-butanediamine and 1.17 g (3 mmol) of N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea as starting materials. Working up by chromatography (eluant: methylene chloride/methanol 98+2) analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int.[%])=630 ([M+H]+, 7), 230 (100); IR (KBr): 2164 cm-1 (C≡N).

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,4-butanediamine | 3 mmol, 0.99 g | ClC1=CC=C(C=C1)C(CCN(CCCCN)C)C1=NC=CC=C1 | C19H26ClN3
reactant | N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea | 3 mmol, 1.17 g | C(#N)NC(OC1=CC=CC=C1)=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H28N4O2
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | N-[4-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N'-cyano-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine | ClC1=CC=C(C=C1)C(CCN(C)CCCCNC(=NCCCOC1=CC(=CC=C1)CN1CCCCC1)NC#N)C1=NC=CC=C1 | C36H48ClN7O
